US07375134B2
A mixture of (2S)-2-[(S)-1-(4-bromophenyl)-2,2,2-trifluoroethylamino]-pentanoic acid (19.0 g, 53.6 mmol), 1-aminocyclopropanecarbonitrile hydrochloride (12.71 g, 107 mmol, synthesized according to O'Donnell, M. J. et al., Synthesis, 1984, 127-128), and HATU (22.42 g, 59.0 mmol) was dissolved in DMF (200 mL) and cooled to −78° C. Diisopropylethylamine (37.35 mL, 214 mmol) was added and after stirring for 1 hour, the cooling bath was removed. The reaction mixture was allowed to stir for an additional 1 hour, whereupon saturated NaHCO3 (300 mL) was added. The product was extracted with ethyl acetate (500 mL), washed with brine (100 mL), 0.25 M citric acid (200 mL), saturated NaHCO3 (200 mL), brine (200 mL), dried over MgSO4/DARCO, filtered through silica, and evaporated to dryness. After eluting the residue through another short plug of silica with 10% ethyl acetate/dichloromethane as mobile phase, the product was concentrated and recrystallized from ether/hexanes to yield N2-[(1S)-1-(4-bromophenyl)-2,2,2-trifluoroethyl]-N1-(1-cyanocyclopropyl)-L-norvalinamide.

reactant | (2S)-2-[(S)-1-(4-bromophenyl)-2,2,2-trifluoroethylamino]-pentanoic acid | 53.6 mmol, 19.0 g | BrC1=CC=C(C=C1)[C@@H](C(F)(F)F)N[C@H](C(=O)O)CCC | C13H15BrF3NO2
reactant | 1-aminocyclopropanecarbonitrile hydrochloride | 107 mmol, 12.71 g | Cl.NC1(CC1)C#N
reactant | HATU | 59.0 mmol, 22.42 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Diisopropylethylamine | 214 mmol, 37.35 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | N2-[(1S)-1-(4-bromophenyl)-2,2,2-trifluoroethyl]-N1-(1-cyanocyclopropyl)-L-norvalinamide | BrC1=CC=C(C=C1)[C@@H](C(F)(F)F)N[C@@H](CCC)C(=O)NC1(CC1)C#N | C17H19BrF3N3O
